US03984467
1-(4-Tolyl)-3-(pentanimidoyl)urea
Following a procedure similar to that described in Example 23 but using 2.3 g. sodium in 300 ml. dry acetone, 13.6 g. valeramidine hydrochloride and 13.3 g. 4-tolyl isocyanate in 100 ml. dry acetone, there was obtained after recrystallization from acetonitrile 10.6 g. 1-(4-tolyl)-3-(pentanimidoyl)urea hydrochloride; m.p. 159°-160°C.

reactant | sodium | [Na] | Na
reactant | valeramidine hydrochloride | Cl.C(CCCC)(=N)N
reactant | 4-tolyl isocyanate | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
solvent | acetone | CC(=O)C | C3H6O
product | 1-(4-Tolyl)-3-(pentanimidoyl)urea | C1(=CC=C(C=C1)NC(=O)NC(CCCC)=N)C | C13H19N3O
